US08304557B2
(iv) N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]phenyl}-3-(1-cyano-1-methylethyl)benzamide
To a solution of the above-mentioned crude product, ethyl ({5-[3-({[3-(1-cyano-1-methylethyl)phenyl]carbonyl}amino)phenoxy]pyridin-2-yl}carbamothioyl)carbamate, in methanol (100 mL)/ethanol (100 mL) were added hydroxylamine hydrochloride (4.84 g, 69.6 mmol) and N,N-diisopropylethylamine (14.6 mL, 83.5 mmol), and the mixture was stirred with heating at 60° C. for 3 hr. The reaction mixture was concentrated under reduced pressure, water (100 mL) was added to the residue, and the mixture was extracted with ethyl acetate (150 mL, 2×50 mL). The combined organic layer was washed with saturated brine (30 mL) and dried over anhydrous sodium sulfate. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH silica gel, hexane/ethyl acetate=30/70→0/100), and fractions containing the desired product were concentrated under reduced pressure to give the title compound (3.65 g, 76%) as a pale-yellow amorphous solid.

reactant | ethyl ({5-[3-({[3-(1-cyano-1-methylethyl)phenyl]carbonyl}amino)phenoxy]pyridin-2-yl}carbamothioyl)carbamate | C(#N)C(C)(C)C=1C=C(C=CC1)C(=O)NC=1C=C(OC=2C=CC(=NC2)NC(=S)NC(OCC)=O)C=CC1 | C26H25N5O4S
reactant | ethanol | 100 mL | C(C)O | C2H6O
reactant | hydroxylamine hydrochloride | 69.6 mmol, 4.84 g | Cl.NO
reactant | N,N-diisopropylethylamine | 83.5 mmol, 14.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methanol | 100 mL | CO | CH4O
product | N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]phenyl}-3-(1-cyano-1-methylethyl)benzamide | 3.65 g, 76% | NC1=NN2C(C=CC(=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(C)(C)C#N)=O)=N1 | C23H20N6O2
